US07799822B2
Prepared according to general procedure 21. A solution of 4-bromo-N-(thiazol-2-yl)benzenesulfonamide (2.0 g, 6.3 mmol), tert-butyl azetidin-3-ylcarbamate acetate (1.61 g, 6.9 mmol) sodium tert-butoxide (2.55 g, 26.5 mmol), biphenyl-2-yl-di-tert-butylphosphine (224 mg, 0.76 mmol), and Pd2(dba)3 (172 mg, 0.19 mmol) in toluene (16 mL) was stirred at 75° C. for 16 h. The reaction mixture was poured into H2O, and the pH was adjusted to 6. The aqueous layer was extracted 4 times with CH2Cl2, and the organics were combined, washed with saturated aqueous NaCl solution, dried over MgSO4, and concentrated. Purification via silica gel chromatography using 50-70% EtOAc in hexanes gave tert-butyl 1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)azetidin-3-ylcarbamate (0.86 g, 33%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=411.0; tR=2.54 min.

reactant | 4-bromo-N-(thiazol-2-yl)benzenesulfonamide | 6.3 mmol, 2.0 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7BrN2O2S2
reactant | tert-butyl azetidin-3-ylcarbamate acetate | 6.9 mmol, 1.61 g | C(C)(=O)O.N1CC(C1)NC(OC(C)(C)C)=O
reactant | biphenyl-2-yl-di-tert-butylphosphine | 0.76 mmol, 224 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | H2O | O | H2O
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.19 mmol, 172 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)azetidin-3-ylcarbamate | 0.86 g, 33% | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C=C1)N1CC(C1)NC(OC(C)(C)C)=O | C17H22N4O4S2
